US04230707
From 6.2 g (0.040 mol) of 6-chloro-3-pyridinecarboxamide (Aldrich Chemical Company) and 9.0 g (0.040 mol) of 2-amino-5-butyl-3-thiophenecarboxylic acid, ethyl ester and heating in a wax bath at 180°-195° C. for one hundred forty-five minutes and then at 185°-200° C. for ninety minutes, following the procedure of Example 22 there is obtained 1.9 g of 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide; mp 266°-267° C. after recrystallization from glacial acetic acid.

reactant | 6-chloro-3-pyridinecarboxamide | 0.040 mol, 6.2 g | ClC1=CC=C(C=N1)C(=O)N | C6H5ClN2O
reactant | 2-amino-5-butyl-3-thiophenecarboxylic acid, ethyl ester | 0.040 mol, 9.0 g | NC=1SC(=CC1C(=O)OCC)CCCC | C11H17NO2S
product | 2-butyl-4-oxo-4H-pyrido[1,2-a]thieno[2,3-d]pyrimidine-7-carboxamide | 1.9 g | C(CCC)C1=CC2=C(N=C3N(C2=O)C=C(C=C3)C(=O)N)S1 | C15H15N3O2S
